### PR TITLE
fix: `AsFractional` synthesis direction and priorities for `AsFractional` instances

### LINKED ISSUE #574: Support splitting `l ↦ v` assumption
Rocq Iris supports splitting it with `iDestruct "Hl" as "[Hl1 Hl2]".`. But in Iris-Lean, one right now has to use instFractionalPointsTo explicitly, like so:

```lean
theorem pt_split (l : Loc) (v : Val) :
    l ↦ v ⊣⊢ l ↦{.own (.half 1)} v ∗ l ↦{.own (.half 1)} v := by
  isplit
  · iintro Hl
    -- PORTING: iris-lean does not support splitting ↦ yet
    -- icases Hl with ⟨Hl1, Hl2⟩
    iapply instFractionalPointsTo.fractional
    simp only [Qp.half_add_half]
    iexact Hl
  · iintro Hl
    ihave H := instFractionalPointsTo.fractional $$ Hl
    simp only [Qp.half_add_half]
    iexact H
```

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Addresses the bugs noted in the discussion thread [#iris-lean > Porting iris-tutorial @ 💬](https://leanprover.zulipchat.com/#narrow/channel/490604-iris-lean/topic/Porting.20iris-tutorial/near/615060705).

Consider the following example.

```lean4
variable [ι : HeapLangGS hlc GF]

example (l : Loc) (v : Val) :
    l ↦ v ⊢ l ↦{.own (.half 1)} v ∗ l ↦{.own (.half 1)} v := by
  iintro Hl
  icases Hl with ⟨H1, H2⟩
  iframe
```

The line `icases Hl with ⟨H1, H2⟩` throws an error about being unable to split `l ↦ v` into halves. This is due to `Φ` and `q` not being set as output parameters of the type class `AsFractional`.

Upon fixing this bug, we get the following proof state as expected:

```
∗H1 : l ↦{DFrac.own (Qp.half 1)} some v
∗H2 : l ↦{DFrac.own (Qp.half 1)} some v
⊢ l ↦{DFrac.own (Qp.half 1)} some v ∗ l ↦{DFrac.own (Qp.half 1)} some v
```

Also, the instances are set with incorrect priorities. Consider the following example:

```lean4
example (l : Loc) (v : Val) :
    l ↦{.own (q1 + q2)} v ⊢ l ↦{.own q1} v ∗ l ↦{.own q2} v := by
  iintro Hl
  icases Hl with ⟨H1, H2⟩
  iframe
```

Currently, the use of `icases Hl with ⟨H1, H2⟩` incorrectly gives the following proof state:

```
∗H1 : l ↦{DFrac.own (q1 + q2).half} some v
∗H2 : l ↦{DFrac.own (q1 + q2).half} some v
⊢ l ↦{DFrac.own q1} some v ∗ l ↦{DFrac.own q2} some v
```

We expect:

```
∗H1 : l ↦{DFrac.own q1} some v
∗H2 : l ↦{DFrac.own q2} some v
⊢ l ↦{DFrac.own q1} some v ∗ l ↦{DFrac.own q2} some v
```

The instances `fromSepFractional` and `intoSepFractional` should have higher priorities than `fromSepFractionalHalf` and `intoSepFractionalHalf`, respectively. Backtracking should be enabled for the former two instances.

For `fromSepFractional` and `intoSepFractional`, it is worth noting that the parameter `p` is an *input* parameter for `AsFractional`, as `q1 + q2` is already known. On the contrary, `p` is an *output* parameter for `fromSepFractionalHalf` and `intoSepFractionalHalf` as `(q1 + q2).half` obtained during the synthesis. Therefore, it is defined as a *semi-output* parameter of the type class.

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

**Comment by alvinylt** [comment]
Note: `Φ` is also set as a semi-output parameter even though it is an output parameter in all of the existing instances, as it goes in the other direction for `combine_sep_as_fractional`, which is not yet ported.

**Comment by markusdemedeiros** [comment]
Was the problematic synthesis being performed by Lean's typeclass algorithm or the custom Iris one?

**Comment by alvinylt** [comment]
> Was the problematic synthesis being performed by Lean's typeclass algorithm or the custom Iris one?

Without the `ipm_class` annotations they are done by the built-in synthesiser, though the same also occurs with the custom one.

File: Iris/Iris/BI/Lib/Fractional.lean [hunk 1]
```diff
@@ -14,12 +14,14 @@ public import Iris.ProofMode
 namespace Iris
 open Iris.Std BI OFE ProofMode
 
-@[rocq_alias Fractional]
+@[ipm_class, rocq_alias Fractional]
 class Fractional [BI PROP] (Φ : Qp → PROP) where
```
Comment (MackieLoeffel) [inline Iris/Iris/BI/Lib/Fractional.lean:18]: Does this need to be an `ipm_class`? `Fractional` seems more like `Persistent` or `Affine` to me, which are not `ipm_class`es.

File: Iris/Iris/BI/Lib/Fractional.lean [hunk 2]
```diff
@@ -14,12 +14,14 @@ public import Iris.ProofMode
...
   fractional p q : Φ (p + q) ⊣⊢ Φ p ∗ Φ q
 
-@[rocq_alias AsFractional]
-class AsFractional {PROP : Type u} [BI PROP] (P : PROP) (Φ : Qp → PROP) (q : Qp) where
+@[ipm_class, rocq_alias AsFractional]
+class AsFractional {PROP : Type u} [BI PROP] (P : PROP) (ioΦ : InOut)
+    (Φ : semiOutParamIPM ioΦ (Qp → PROP)) (ioq : InOut)
```
Comment (MackieLoeffel) [inline Iris/Iris/BI/Lib/Fractional.lean:23]: From the uses of `AsFractional` it seems like `Φ` is always an output or am I missing something?

File: Iris/Iris/BI/Lib/Fractional.lean [hunk 3]
```diff
@@ -34,52 +36,48 @@ unify against any `IProp`.  -/
...
-instance (priority := default - 10) intoSepFractional [hP : AsFractional P Φ (q1 + q2)] :
+@[ipm_backtrack, rocq_alias into_sep_fractional]
+instance (priority := default - 10) intoSepFractional [hP : AsFractional P .out Φ .in (q1 + q2)] :
     IntoSep P (Φ q1) (Φ q2) where
   into_sep := hP.as_fractional.1.trans (hP.as_fractional_fractional.fractional q1 q2).1
 
-set_option synthInstance.checkSynthOrder false in
 @[rocq_alias from_sep_fractional_half]
-instance (priority := default - 10) fromSepFractionalHalf [hP : AsFractional P Φ q] :
+instance (priority := default - 30) fromSepFractionalHalf [hP : AsFractional P .out Φ .out q] :
```
Comment (MackieLoeffel) [inline Iris/Iris/BI/Lib/Fractional.lean:73]: Can you add some tests for these new priorities?

**Comment by MackieLoeffel** [comment]
Thanks for the quick PR! I added some comments.

File: Iris/Iris/BI/Lib/Fractional.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/BI/Lib/Fractional.lean:18]: Agreed. The `ipm_class` annotation for `Fractional` is removed.

Commit: [d18aff3](https://github.com/leanprover-community/iris-lean/pull/575/commits/d18aff3fef8d25b5d5baa2ef92be3622b9a05ddc)

File: Iris/Iris/BI/Lib/Fractional.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/BI/Lib/Fractional.lean:73]: Tests added in commit [9579e8b](https://github.com/leanprover-community/iris-lean/pull/575/commits/9579e8bf4787b74515a61672cdf5ac796f8ce99b).

File: Iris/Iris/BI/Lib/Fractional.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/BI/Lib/Fractional.lean:23]: I have ported `combine_sep_as_fractional` and `combine_sep_as_fractional_half`. For `combine_sep_as_fractional`, there are two `AsFractional` premises (`hP1` and `hP2`). One of them has `Φ` as an output parameter while another as an input parameter, so that the synthesiser does not throw an error about an output parameter that is not a metavariable.

Two more tests for `icombine` are added for these new instances.

Commit: [2637fad](https://github.com/leanprover-community/iris-lean/pull/575/commits/2637fad19c1611b198576071b451d5525e21f40b)

File: Iris/Iris/Tests/Tactics.lean [hunk 4]
```diff
@@ -2277,6 +2278,28 @@ example [BI PROP] (a b c1 c2 c3 : Prop) (P : Prop → Prop) :
...
   · ipureintro <;> grind
 
+variable {hlc : HasLC} {GF : BundledGFunctors} [ι : HeapLangGS hlc GF]
+
+/--
+  Tests `icases` with the use of `intoSepFractionalHalf` after backtracking
+  from `intoSepFractional`.
+-/
+example (l : Loc) (v : Val) :
+    l ↦ v ⊢ l ↦{.own (.half 1)} v ∗ l ↦{.own (.half 1)} v := by
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean]: Please add theses tests to the heaplang test directory. This file here is growing very large.

Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean]: Done in commit [aeff712](https://github.com/leanprover-community/iris-lean/pull/575/commits/aeff71262b8dff4e511fdc4b0dc8ba42a678e9dc).

**Comment by MackieLoeffel** [comment]
Thanks, this looks great to me! Merging.
